US04542216
30 ml of a 40% aqueous methylamine solution are added, at a temperature of between 20° and 25° C., to 2.2 g (0.009 mol) of 2-methylsulfonyl-4-difluoromethoxy-6-methylpyrimidine. The mixture warms up to a temperature of 60° C. The reaction mixture is subsequently stirred for half an hour at the same temperature; it is then cooled and 50 ml of methylene chloride are added. The organic phase is separated, dried over sodium sulfate and concentrated by evaporation. Crystallisation of the residue from a methylene chloride/petroleum ether mixture yields 1.4 g (74% of theory) of 2-methylamino-4-difluoromethoxy-6 -methylpyrimidine, m.p. 129.5°-131° C.

reactant | methylamine | CN | CH5N
reactant | 2-methylsulfonyl-4-difluoromethoxy-6-methylpyrimidine | 0.009 mol, 2.2 g | CS(=O)(=O)C1=NC(=CC(=N1)OC(F)F)C | C7H8F2N2O3S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-methylamino-4-difluoromethoxy-6 -methylpyrimidine | 1.4 g, 74% | CNC1=NC(=CC(=N1)OC(F)F)C | C7H9F2N3O
